US06028131
Methyl 3,5-di-t-butyl-2-hydroxybenzylthioacetate
50.96 g (0.247 mol) of 2,4-di-t-butylphenol, 28.84 g (0.272 mol) of methyl thioglycolate, 14.83 g (0.494 mol) of paraformaldehyde and 3.41 g of dimethylamine (33% in ethanol) are refluxed for 18 hours in 50 ml of DMF. The crude product (85.3 g) can, after working-up as described above, be further purified by flash chromatography. m.p. 55.0-55.5° C. Analysis for C18H28SO3 : calc. C, 66.63; H, 8.70; S 9.88%; found C 66.65; H 8.79; S 9.88%

reactant | 2,4-di-t-butylphenol | 0.247 mol, 50.96 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | methyl thioglycolate | 0.272 mol, 28.84 g | C(CS)(=O)OC | C3H6O2S
reactant | paraformaldehyde | 0.494 mol, 14.83 g | C=O | CH2O
reactant | dimethylamine | 3.41 g | CNC | C2H7N
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 3,5-di-t-butyl-2-hydroxybenzylthioacetate | C(C)(C)(C)C=1C(=C(CCC(=S)OC)C=C(C1)C(C)(C)C)O | C18H28O2S
